US04411901
Reaction of 2-(3-chloropropyl)-2-(4-fluorophenyl)-1,3-dioxane with 3-(1-piperazinyl)-1,2-benzisoxazole according to the procedure of Example 12 and conversion of the free base to the hydrochloride salt affords a 25% yield of 4-[4-(1,2-benzisoxazol-3-yl)-1-piperazinyl]-1-(4-fluorophenyl)-1-butanone hydrochloride, m.p. 260°-262°, from methanol (25% yield).

reactant | 2-(3-chloropropyl)-2-(4-fluorophenyl)-1,3-dioxane | ClCCCC1(OCCCO1)C1=CC=C(C=C1)F | C13H16ClFO2
reactant | 3-(1-piperazinyl)-1,2-benzisoxazole | N1(CCNCC1)C1=NOC2=C1C=CC=C2 | C11H13N3O
product | 4-[4-(1,2-benzisoxazol-3-yl)-1-piperazinyl]-1-(4-fluorophenyl)-1-butanone hydrochloride | 25% yield | Cl.O1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCC(=O)C2=CC=C(C=C2)F | InChI=1S/C21H22FN3O2.ClH/c22-17-9-7-16(8-10-17)19(26)5-3-11-24-12-14-25(15-13-24)21-18-4-1-2-6-20(18)27-23-21;/h1-2,4,6-10H,3,5,11-15H2;1H
